US07704991B2
2-(8-Methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-6-nitro-quinoline free base
A mixture of 8-methyl-3,8-diazabicyclo[3.2.1]octane (3.8 g, 30 mmol), 2-chloro-6-nitroquinoline (6.2 g, 30 mmol), diisopropylethylamine (10.5 ml, 60 mmol) and dioxane (100 ml) was stirred at reflux for 15 h. Aqueous ammonia (50 ml, 1 M) was added followed by extraction with dichloromethane (3×50 ml). Chromatography on silica gel with methanol:dichloromethane:aqueous ammonia (1:9:1%) as solvent gave the title compound as a solid. Yield 3.1 g (35%). Mp 152.1-154.5° C.

reactant | 8-methyl-3,8-diazabicyclo[3.2.1]octane | 30 mmol, 3.8 g | CN1C2CNCC1CC2 | C7H14N2
reactant | 2-chloro-6-nitroquinoline | 30 mmol, 6.2 g | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | diisopropylethylamine | 60 mmol, 10.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonia | 1 M, 50 ml | N | H3N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-(8-Methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-6-nitro-quinoline | CN1C2CN(CC1CC2)C2=NC1=CC=C(C=C1C=C2)[N+](=O)[O-] | C16H18N4O2
